US08058332B2
To a stirred solution of the ammonium salt of dithiophosphoric acid O,O-diethyl ester (15.8 g, 78 mmol) in ethanol (130 mL) at 80° C. is added 1,4-dibromo-2-butene (7.55 g, 35 mmol) in portions. The resulting mixture is cooled, diluted with water (150 mL) and extracted with methylene chloride (3×100 mL). The organic layer is dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to yield 15 g (99%) of S-[4-(diethoxy-thiophosphorylsulfanyl)-but-2-enyl]dithiophosphoric acid O,O′-diethyl ester, having the structure:

reactant | dithiophosphoric acid O,O-diethyl ester | 78 mmol, 15.8 g | C(C)OP(OCC)(S)=S | C4H11O2PS2
reactant | 1,4-dibromo-2-butene | 35 mmol, 7.55 g | BrCC=CCBr | C4H6Br2
solvent | ethanol | 130 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
product | S-[4-(diethoxy-thiophosphorylsulfanyl)-but-2-enyl]dithiophosphoric acid O,O′-diethyl ester | 15 g, 99% | C(C)OP(SCC=CCSP(=S)(OCC)OCC)(OCC)=S | C12H26O4P2S4
